US06706709B2
Manganese (IV) oxide (3.2 g, 36 mmol) was added to [5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-yl]-methanol (0.7 g) in dichloromethane (150 mL). The mixture was stirred at room temperature for 16 hours. The precipitate was filtered off and the filtrate was concentrated. The residue was recrystallized from ethyl acetate and hexane to give 0.18 g of 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde.

reactant | [5-(2-morpholin-4-yl-ethoxy)-1H-indol-2-yl]-methanol | 0.7 g | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)CO | C15H20N2O3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | Manganese (IV) oxide | 36 mmol, 3.2 g | [O-2].[Mn+4].[O-2]
product | 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde | 0.18 g | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O3
